US08106043B2
7-Nitro-4-(2-(pyrrolidin-1-yl)ethyl)-3,4-dihydro-2H-benzo[b][1,4]oxazine:
A solution of 7-nitro-3,4-dihydro-2H-benzo[b][1,4]oxazine (300 mg, 1.665 mmol) in DMF (10 mL) was treated with NaH (213 mg, 5.33 mmol, 60% wt in mineral oil) at 0° C., resulting in a bright orange suspension. The mixture was stirred for 10 minutes. 2-chloroethyl-pyrrolidine hydrochloride (566 mg, 3.33 mmol) was then added, and the reaction turned into a bright red suspension. The reaction was heated to 90° C. for 1 hour and then cooled to room temperature. The mixture was then diluted with water (20 mL), transferred to a separatory funnel, and extracted into EtOAc (2×15 mL). The combined organic layers were washed with brine (3×5 mL), dried (Na2SO4), filtered, and concentrated. The residue was subjected to flash chromatography on silica gel using CH2Cl2 followed by 5:95 (2M NH3 in MeOH):CH2Cl2 to give a solid (330 mg, 72%). 1H-NMR (DMSO-d6) δ 7.75 (dd, J=2.7, 9.3 Hz, 1H), 7.47 (d, J=2.7 Hz, 1H), 6.80 (d, J=9.0 Hz, 1H), 4.18 (t, J=4.2 Hz, 2H), 3.58-3.55 (m, 4H), 2.63 (t, J=6.9 Hz, 2H), 2.58-2.48 (m, 4H), 1.70-1.63 (m, 4H); ESI-MS (m/z, %): 278 (MH+, 100), 98 (20).

reactant | 7-nitro-3,4-dihydro-2H-benzo[b][1,4]oxazine | 1.665 mmol, 300 mg | [N+](=O)([O-])C=1C=CC2=C(OCCN2)C1 | C8H8N2O3
reactant | NaH | 5.33 mmol, 213 mg | [H-].[Na+]
reactant | 2-chloroethyl-pyrrolidine hydrochloride | 3.33 mmol, 566 mg | Cl.ClCCN1CCCC1
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | water | 20 mL | O | H2O
product | 7-Nitro-4-(2-(pyrrolidin-1-yl)ethyl)-3,4-dihydro-2H-benzo[b][1,4]oxazine | 330 mg, 72% | [N+](=O)([O-])C=1C=CC2=C(OCCN2CCN2CCCC2)C1 | C14H19N3O3
